US05677321
6-(2-Thiazolin-2-ylamino)benzothiazole
To a solution of 6-aminobenzothiazole (0.15 g, 1.0 mmol) in 10 mL of CHCl3 and 10 mL of saturated aqueous NaHCO3 was added thiophosgene (0.20 mL, 2.6 mmol) in a portion. The reaction mixture was stirred for 1 h at 25° C. Organic layer was separated from aqueous layer. Aqueous layer was then extracted with EtOAc several times. Combined organic extracts were dried over Na2SO4 and concentrated in vacuo, providing an oil which was dissolved in 10 mL of THF with of triethylamine (1 mL) and chloroethylamine.HCl (0.5 g). Resulting solution was stirred for 12 h at reflux. It was concentrated in vacuo to yield oily residue which was purified on column chromatography (5% NH3 saturated MeOH/EtOAc) to provide 0.16 g (0.68 mmol, 68%) of the desired product. The product obtained was converted to the fumarate salt and recrystallized from MeOH to provide 0.18 g of the product as a white crystal: mp 181°-183° C.; 1H NMR (CD3OD) δ9.11 (s, 1H), 8.02 (d, J=2.0 Hz, 1H), 7.96 (d, J=5.8 Hz, 1H), 7.32 (dd, J=2.0, 5.8 Hz, 1H), 3.90 (t, J=4.8 Hz, 2H), 3.39 (t, J=4.8 Hz, 2H); Anal. Calc. for C10H9N3S2.1.0C4H4O4 requires C, 47.85; H, 3.73; N, 11.96. Found: C, 48.86; H, 3.86; N, 12.15.

reactant | 6-aminobenzothiazole | 1.0 mmol, 0.15 g | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
reactant | thiophosgene | 2.6 mmol, 0.20 mL | C(=S)(Cl)Cl | CCl2S
reactant | HCl | 0.5 g | Cl | ClH
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | chloroethylamine | ClCCN | C2H6ClN
product | 6-(2-Thiazolin-2-ylamino)benzothiazole | 0.68 mmol, 0.16 g, 68% | S1C(=NCC1)NC1=CC2=C(N=CS2)C=C1 | C10H9N3S2
